US04083857
4-Methyl-7-hydroxy-coumarin (26.4g), aluminum chloride (76.1g) and sodium chloride (9.5g) were placed in a flask and shaken to effect reasonable mixing. The flask was then immersed in an oil bath, and the temperature raised to 150° C. Hydrogen chloride evolution commenced at about 100°-110° C. After maintaining the temperature at 150° C for 15 minutes, the melt produced was heated to 160° C and stirred until evolution of hydrogen chloride ceased. Stirring was continued while acetyl chloride (11.8 ml) was added to the melt over a period of about 30 minutes. After maintaining the melt at 160° to 165° C for a further 15 minutes, it was poured with stirring into water (1000 ml). The solid produced was filtered off, washed free of chloride, and dried. On analysis, it was found that the solid contained about 70% by weight of 4-methyl-7-hydroxy-8-acetyl-coumarin and about 30% by weight of 4-methyl-7-hydroxy-6-acetyl-coumarin. The latter isomer was removed by recrystallisation of the product three times from 85% IMS to yield 20.4g of a 4-methyl-7-hydroxy-8-acetyl-coumarin, mpt 167°-169° C.

reactant | 4-Methyl-7-hydroxy-coumarin | 26.4g | CC1=CC(OC2=CC(=CC=C12)O)=O | C10H8O3
reactant | aluminum chloride | 76.1g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium chloride | 9.5g | [Cl-].[Na+]
reactant | Hydrogen chloride | Cl | ClH
reactant | acetyl chloride | 11.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | 1000 ml | O | H2O
product | 4-methyl-7-hydroxy-8-acetyl-coumarin | 20.4g | CC1=CC(OC2=C(C(=CC=C12)O)C(C)=O)=O | C12H10O4
